US06479536B1
3-(4-Isopropylphenyl)-2-methyl-2-propen-1-ol
To a suspension of ethyl 3-(4-isopropylphenyl)-2-methyl-2-propenoate (9.00 g, 38.7 mmol) and cerium chloride (1.00 g, 4.06 mmol) in tetrahydrofuran (50 ml) was added in four portions at −40° C. over a period of 30 minutes lithium aluminum hydride (1.47 g, 38.7 mmol) and the resulting mixture was stirred at the same temperature for 30 minutes. Water was added into the reaction solution and the product was extracted twice with ethyl acetate. The combined extracts were washed with water, dried on magnesium sulfate, and then concentrated under reduced pressure. The residue was subjected to column chromatography on silica gel (hexane-ethyl acetate 8:1) to obtain 6.30 g (86% yield) of the oily title compound.

reactant | ethyl 3-(4-isopropylphenyl)-2-methyl-2-propenoate | 38.7 mmol, 9.00 g | C(C)(C)C1=CC=C(C=C1)C=C(C(=O)OCC)C | C15H20O2
reactant | cerium chloride | 4.06 mmol, 1.00 g | [Cl-].[Ce+3].[Cl-].[Cl-]
reactant | lithium aluminum hydride | 38.7 mmol, 1.47 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Water | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3-(4-Isopropylphenyl)-2-methyl-2-propen-1-ol | 6.30 g, 86% yield | C(C)(C)C1=CC=C(C=C1)C=C(CO)C | C13H18O
